data/specific_train_final.csv
"CCC(C)(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CCC(C)(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O[O:20])(Cl)Cl)(O)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)(Cl)Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[OH:10][O:11]C(C(COO)(O)C)CO.[He]>>[He].[OH:10].[O:11]C(C(COO)(O)C)CO 10,11-10;10,11-11",Light,Initiation,homolyze
"CC1(C=CC2C(C1(OO2)C)O)[O:20].[N+:10](=O)[O-]>>CC1(C=CC2C(C1(OO2)C)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]C(Cl)Cl.[O:20][O]>>[CH2:10](C(Cl)Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH2:8][OH:9])[O:7].[N+:11](=[O:10])[O-:12]>>[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH2:8][OH:9])[O:7][N+:11](=[O:10])[O-:12] 7-7,11; 11-7,11",Room Temperature,Termination,recombine
[CH3:9][CH2:8][CH2:7][CH:5]([CH3:4])[O:6].[N:2](=[O:3])[O:1]>>[CH3:9][CH2:8][CH2:7][CH:5]([CH3:4])[O:6].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:7][CH:6]([CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4])[O:8].[O:9][O:10]>>[H:7][O:10][O:9].[CH3:1][C:2](=[CH:5][CH:6]=[O:8])[CH2:3][Cl:4] 10-10,7; 8-8,6; 6,7-10,7; 6,7-8,6",Room Temperature,Termination,abstraction
"c1ccccc1[C](=O)O[O:10].[O:20]O>>c1ccccc1[C](=O)O[O:10][O:20]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CC(C)(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C[O:21][O:20][O])O.[N+](=O)[O-]>>CCCC(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)C=CC1(C(O1)[C:10]=O)C.[O:20][O]>>CCC(=O)C=CC1(C(O1)[C:10](=O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC[O:20][O:21][O]>>CC(C)(C)OC[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC[C:10]=O.[O:20][O]>>COC[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)O[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CC(C(C=O)O[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:7][C:6](=[C:2]([CH3:1])[C:3](=[CH2:5])[H:4])[H:8].[Cl:9]>>[H:7][C:6](=[C:2]([CH3:1])[C:3]([H:4])[CH2:5][Cl:9])[H:8] 9-9,5; 3,5-9,5; 3,5-3",Room Temperature,Propagation,addition
"[H:20][C:21](=O)C=CC1(C(O1)(CC)C=O)C.[OH:10]>>[H:20][OH:10].CCC1(C(O1)(C)C=C[C:21]=O)C=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)C[O:21][O:20][O]>>CC(CO)C[O:21].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=CC(=O)[O:21][O:20]N=O)CO[N+](=O)[O-]>>CC(=CC(=O)[O:21])CO[N+](=O)[O-].N(=O)[O:20] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1[C](=O)[O:10][O:20]OC(=O)c1ccccc1>>c1ccccc1[C](=O)[O:10].[O:20]OC(=O)c1ccccc1 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"CCC(C1=CC=CC=C1)[O:20][O:21]N=O>>CCC(C1=CC=CC=C1)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C=CCOO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>C(C=CCOO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C([C:10](C2(C(C1OO2)O[N+](=O)[O-])C)O)C.[O:20][O]>>CC1=C([C:10](C2(C(C1OO2)O[N+](=O)[O-])C)(O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](CBr)Br.[OH:10]>>[H:20][OH:10].C([CH:21]Br)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:10][CH2:9][C:7]([CH3:8])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:10][CH2:9][C:7]([CH3:8])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 2,4-2; 2,4-4",Room Temperature,Initiation,homolyze
"[H:12][O:11][O:10][CH:9]([CH2:13][O:14][O:15])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8]>>[H:12][O:15][O:14][CH2:13][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11] 15-15,12; 11,12-11; 11,12-15,12",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[O:3])[O:4][O:5][O:6][N+:7](=[O:8])[O-:9]>>[CH3:1][C:2](=[O:3])[O:4][O:5][O:6].[N+:7](=[O:8])[O-:9] 6,7-6; 6,7-7",Room Temperature,Initiation,homolyze
"[CH2:9]([C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:11])([Cl:7])[Cl:8])[OH:10]>>[CH2:9]([C:6]([O:5][O:4][O:3])([Cl:7])[Cl:8])[OH:10].[N+:2](=[O:1])[O-:11] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"CCCC(C)(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(C)(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CO[O:20])CO[N+](=O)[O-].[N:10]=O>>CC(=CO[O:20][N:10]=O)CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)Cl)OO[O:20][N+:21](=O)[O-]>>C(C(O)Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:9][O:8][O:7][CH2:6][C:2]([CH3:1])([C:4]=[O:5])[OH:3]>>[H:9][O:8][O:7][CH2:6][C:2]([CH3:1])[OH:3].[C:4]=[O:5] 2,4-4;2,4-2",Room Temperature,Initiation,homolyze
